US05306692
2-cyano-5-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-1H-benzimidazole-3-oxide (0.8 g) was suspended in chloroform (5cm3) stirred and cooled to 5° C. in an ice bath. Phosphorus trichloride (0.25cm ) was added dropwise and when addition was complete the mixture was heated under reflux for 5 minutes. The resulting solution was cooled, water (10cm3) added slowly and the mixture made basic with aqueous ammonia. The organic layer was separated and the aqueous layer extracted twice with chloroform. The combined organic phase was washed with water, dried (MgSO4), filtered and the filtrate evaporated under vacuum. A portion of the residue was purified by preparative plate chromatogrpahy (SiO2 ; ether) to give 2-cyano-5-(2-chloro-4-trifluormethyl-6-fluorophenoxy)benzimidazole as a pale yellow solid, recrystallised from ether/hexane. MS (positive FAB) MH+ =356.

reactant | 2-cyano-5-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-1H-benzimidazole-3-oxide | 0.8 g | C(#N)C1=[N+](C2=C(N1)C=CC(=C2)OC2=C(C=C(C=C2F)C(F)(F)F)Cl)[O-] | C15H6ClF4N3O2
reactant | Phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | water | 10cm3 | O | H2O
reactant | ammonia | N | H3N
solvent | chloroform | 5cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-cyano-5-(2-chloro-4-trifluormethyl-6-fluorophenoxy)benzimidazole | C(#N)C=1NC2=C(N1)C=CC(=C2)OC2=C(C=C(C=C2F)C(F)(F)F)Cl | C15H6ClF4N3O
